US05872137
In a reaction vessel were placed 0.26 g of zinc dust, 1.0 g of triphenylphosphine, 1.3 g of carbon tetrabromide and 20 ml of methylene chloride, followed by stirring at room temperature. After 24 hours, a solution of 0.70 g of (4-(2-chlorobenzyloxy)-3,5-dichlorophenoxy)acetaldehyde dissolved in 5 ml of methylene chloride was added dropwise to the above solution, while stirring at room temperature. After stirring at room temperature for 6 hours, the reaction mixture was concentrated to obtain a residue. The residue was subjected to silica gel chromatography, which afforded 0.63 g of 4-(2-chlorobenzyloxy)-3,5-dichloro-1-(3,3-dibromo-2-propenyloxy)benzene (63% yield), m.p. 83.5° C.

reactant | triphenylphosphine | 1.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 1.3 g | C(Br)(Br)(Br)Br | CBr4
reactant | (4-(2-chlorobenzyloxy)-3,5-dichlorophenoxy)acetaldehyde | 0.70 g | ClC1=C(COC2=C(C=C(OCC=O)C=C2Cl)Cl)C=CC=C1 | C15H11Cl3O3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | zinc | 0.26 g | [Zn] | Zn
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-chlorobenzyloxy)-3,5-dichloro-1-(3,3-dibromo-2-propenyloxy)benzene | 0.63 g, 63% yield | ClC1=C(COC2=C(C=C(C=C2Cl)OCC=C(Br)Br)Cl)C=CC=C1 | C16H11Br2Cl3O2
